US05519015
Allyl 5-Nitro-2-thiophenecarboxylate
To a solution of 5-nitro-2-thiophenecarboxylic acid (20 g, 0.11 mol) in DMF (140 ml) were added sequentially allyl bromide (40 ml, 0.46 mol) and triethylamine (64 ml, 0.46 mol) with cooling to maintain the temperature of the reaction mixture below 30° C. After addition of the reagents, the reaction mixture was stirred for 3 hours at ambient temperature and then diluted with ethyl acetate. The solid which precipitated was filtered off, the filtrate washed with water, washed with saturated aqueous solution of sodium chloride, dried over MgSO4 and concentrated. The residue was purified by chromatography on silica gel using a mixture of CH2Cl2 -petroleum ether (3:7) as eluent to give the title compound as a white solid (8.8 g, 38%).

reactant | 5-nitro-2-thiophenecarboxylic acid | 0.11 mol, 20 g | [N+](=O)([O-])C1=CC=C(S1)C(=O)O | C5H3NO4S
reactant | allyl bromide | 0.46 mol, 40 ml | C(C=C)Br | C3H5Br
reactant | triethylamine | 0.46 mol, 64 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 140 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Allyl 5-Nitro-2-thiophenecarboxylate | 8.8 g, 38% | [N+](=O)([O-])C1=CC=C(S1)C(=O)OCC=C | C8H7NO4S
